US04133686
(1) Synthesis of N-Acetyl-2,4-dichloro-5-hexadecylaniline
In a solution of 5.6 g of potassium hydroxide in 200 ml of ethanol was dissolved 22 g of 4,6-dichloro-3-acetaminophenol (which was synthesized using the method described in Beilstein, 13, I, 135). To the solution was added 30.5 g of hexadecyl bromide. After the mixture was stirred for an hour at room temperature (about 20-30° C.), the mixture was heated at reflux for 8 hours. The reaction mixture was poured into water. The resulting precipitate was recovered by filtration and washed with methanol to obtain 32 g of the desired product. The melting point thereof was 92 to 93.5° C.

reactant | 4,6-dichloro-3-acetaminophenol | 22 g | ClC1=C(C=C(C(=C1)Cl)O)NC(=O)C | C8H7Cl2NO2
reactant | hexadecyl bromide | 30.5 g | C(CCCCCCCCCCCCCCC)Br | C16H33Br
reactant | water | O | H2O
solvent | potassium hydroxide | 5.6 g | [OH-].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | N-Acetyl-2,4-dichloro-5-hexadecylaniline | 32 g | C(C)(=O)NC1=C(C=C(C(=C1)CCCCCCCCCCCCCCCC)Cl)Cl | C24H39Cl2NO
